data/pmechdb/original/mc_train_fold0/raw/train.txt
C(C[S:10]C[CH2:20][Cl:21])O.[OH3+].[Cl-]>>C1[CH2:20][S+:10]1CCO.[Cl-:21].[OH3+].[Cl-] 10=20;20,21=21
[H:20][NH3+:21].C(C[O-])[CH2:10][Mg:11]Br>>[H:20][CH2:10]CC[O-].[NH3:21].[Mg+:11]Br 10,11=10,20;20,21=21
[H:20][O:21]C(=O)C(=O)O.CC1=CC(CC(CC(=C1)O)(C)C)[OH:10]>>[H:20][OH+:10]C1CC(CC(=CC(=C1)C)O)(C)C.C(=O)(C(=O)[O-:21])O 10=20;20,21=21
CC1(CC(C(=O)C=C1)(C)C[CH:10]2C([OH+:11]2)(C)[Si](C)(C)C)C.C1=CC(=CC(=C1)C(=O)[O-])Cl>>CC1(CC(C(=O)C=C1)(C)C[CH+:10]C(C)([OH:11])[Si](C)(C)C)C.C1=CC(=CC(=C1)C(=O)[O-])Cl 10,11=11
[H:20][NH+:21](C1=C(C=CC=C1)C(=O)NC(CC2=CNC3=CC=CC=C32)C(=O)OC)C(C(C)NC(=O)OCC4C5=C(C=CC=C5)C6=CC=CC=C46)([O-])Cl.C(=O)([O-:10])O[Na].O.[Na+]>>[H:20][O:10]C(=O)O[Na].CC(C([NH:21]C1=C(C=CC=C1)C(=O)NC(CC2=CNC3=CC=CC=C32)C(=O)OC)([O-])Cl)NC(=O)OCC4C5=C(C=CC=C5)C6=CC=CC=C46.O.[Na+] 10=20;20,21=21
[H:20][OH+:21]CC1=CC=CC=C1.CCCCCCCCC=CCCCCCCCC(O)([OH:10])OCC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1>>[H:20][OH+:10]C(CCCCCCCC=CCCCCCCCC)(O)OCC1=CC=CC=C1.C1=CC=C(C=C1)C[OH:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1 10=20;20,21=21
[H:20][N+:21](C)(C)C.CC(=C(C)OC)[O-:10]>>[H:20][O:10]C(=C(C)OC)C.C[N:21](C)C 10=20;20,21=21
COC1=C2C(=CC=C1)C(=C([CH:10]=[C:11]2[O:12]C)CC(CCOCC3=CC=CC=C3)[O+:21]=[CH2:20])OC.[B-](OC)(F)(F)F.CCOCC.CO>>COC1=C2C(=CC=C1)C(=C3CC([O:21][CH2:20][CH:10]3[C:11]2=[O+:12]C)CCOCC4=CC=CC=C4)OC.[B-](OC)(F)(F)F.CCOCC.CO 10,11=10,20;20,21=21;12=11
CC(C)OC1=C(C=CC=C1C2=CC=CC=C2)C(=O)[O-:10].C[CH:20](C)[Br:21].[Na+].[Br-]>>CC(C)OC1=C(C=CC=C1C2=CC=CC=C2)C(=O)[O:10][CH:20](C)C.[Br-:21].[Na+].[Br-] 10=20;20,21=21
[CH2:10]=[C:11](O)[OH:12].[Br:20][Br:21]>>[CH2:10]([C:11](=[OH+:12])O)[Br:20].[Br-:21] 10,11=10,20;20,21=21;12=11
[H:20][O+:21]1C2=C(C=CC=C2)OC13CCCCC3.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>C1CCC2(CC1)OC3=C([O:21]2)C=CC=C3.[H:20][OH2+:10].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
CC(C)CC[C:20]([N+:21]1=CC=C(C=C1)N(C)C)([O-:10])OC(C)(C)C.CC[NH+](CC)CC.CC(=O)[O-]>>CC(C)CC[C:20](=[O:10])OC(C)(C)C.CN(C)C1=CC=[N:21]C=C1.CC[NH+](CC)CC.CC(=O)[O-] 10=20;20,21=21
CCCCN[C:20](CC)([O-:10])[O:21]CC>>CCCCN[C:20](=[O:10])CC.CC[O-:21] 10=20;20,21=21
[Li:11][CH2:10]C=C.CC1[CH2:20][O:21]1>>[Li+:11].CC([CH2:20][CH2:10]C=C)[O-:21] 10,11=10,20;20,21=21
C[C:20](=[O+:21]C)OC.C[OH:10].[Cl-]>>C[C:20]([OH+:10]C)(OC)[O:21]C.[Cl-] 10=20;20,21=21
C1CCC(CC1)NC(=NC2CCCCC2)[O:21][C:20](CC3=CC=CC=C3)([N+]4=CC=C(C=C4)N5CCCC5)[O-:10].CCOC(=O)CC=CCO>>C1CCC(CC1)NC(=NC2CCCCC2)[O-:21].C1CCN(C1)C2=CC=[N+](C=C2)[C:20](=[O:10])CC3=CC=CC=C3.CCOC(=O)CC=CCO 10=20;20,21=21
CC[O+:11](C)[Na:10]>>CC[O:11]C.[Na+:10] 10,11=11
[H:20][O+:21]=C(C(C)C1=CC=C(C=C1)OC)OC.CS(=O)(=O)[O-:10].CO>>[H:20][O:10]S(=O)(=O)C.CC(C1=CC=C(C=C1)OC)C(=[O:21])OC.CO 10=20;20,21=21
[H:20][O+:21](C)C.[OH2:10]>>[H:20][OH2+:10].C[O:21]C 10=20;20,21=21
[H:20][NH2:21].C1=CN=C[C-:10]=C1N>>[H:20][C:10]1=C(C=CN=C1)N.[NH2-:21] 10=20;20,21=21
[H:20][CH:21]1C=C([N+:23](=[C:22]1C2=CC=CO2)CC(=O)O)C3=CC=CC=C3.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.C1=CC=C(C=C1)C2=C[CH:21]=[C:22]([N:23]2CC(=O)O)C3=CC=CO3.O 10=20;22,23=23;20,21=21,22
[H:20][O:21]C(C)(C)OCC.[OH-:10]>>[H:20][OH:10].CCOC(C)(C)[O-:21] 10=20;20,21=21
[H:20][C:21]12C=CC=C[C+:22]1CCC2C.[F-:10]>>[H:20][F:10].CC1CC[C:22]2=[C:21]1C=CC=C2 10=20;20,21=21,22
[H:20][O:21]C(CC1=CC=C(C=C1)C)C2=CC=CC=C2.C1=CC=C(C=C1)CC(=O)C2=CC=CC=C2.C1=CC=C(C=C1)[C-:10](C#N)O>>[H:20][C:10](C#N)(C1=CC=CC=C1)O.CC1=CC=C(C=C1)CC(C2=CC=CC=C2)[O-:21].C1=CC=C(C=C1)CC(=O)C2=CC=CC=C2 10=20;20,21=21
[H:20][CH:21](C#N)[N+](=O)[O-].CC(C)[N-:10]C(C)C>>[H:20][N:10](C(C)C)C(C)C.[CH-:21](C#N)[N+](=O)[O-] 10=20;20,21=21
[H:20][O+:21](CC)CC.[B-]([O:10]C1(CC=C(O1)C2=CC=C(C=C2)C(C)(C)C)C3=CC=C(C=C3)C(C)(C)C)(F)(F)F>>[H:20][O+:10]([B-](F)(F)F)C1(CC=C(O1)C2=CC=C(C=C2)C(C)(C)C)C3=CC=C(C=C3)C(C)(C)C.CC[O:21]CC 10=20;20,21=21
CC(C)[NH:10]C.[CH3:20][I:21]>>CC(C)[NH+:10](C)[CH3:20].[I-:21] 10=20;20,21=21
CC1CC[C:11]([CH2:10]1)([CH2:20][N+:21]#N)[OH:12].O.[Cl-]>>CC1CC[C:11](=[OH+:12])[CH2:20][CH2:10]1.N#[N:21].O.[Cl-] 10,11=10,20;20,21=21;12=11
COC1=C[CH:11]=[CH:10]O1.[Br:20][Br:21]>>COC1=C[CH+:11][CH:10](O1)[Br:20].[Br-:21] 10,11=10,20;20,21=21
[H:20][O+:21](C1C=CC2C=CC3=CC=C(C4=C3C2(C1O4)CCN(C)S(=O)(=O)C5=CC=C(C=C5)C)OC)I6(C7=C(C=CC=C7)C(=O)O6)(OC(=O)C)OC(=O)C.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC1=CC=C(C=C1)S(=O)(=O)N(C)CCC23C4C=CC(C2OC5=C3C(=CC=C5OC)C=C4)[O:21]I6(C7=C(C=CC=C7)C(=O)O6)(OC(=O)C)OC(=O)C 10=20;20,21=21
CC[Al-]([O:10]C12CCCC(C1)C(=C)C2)(Cl)Cl.C[Si:20](C)(C)Cl>>CC[Al-]([O+:10](C12CCCC(C1)C(=C)C2)[Si-:20](C)(C)(C)Cl)(Cl)Cl 10=20,
CC(=O)[O-:10].[CH3:20][O:21][P+:22](C)(C)O>>CC(=O)[O:10][CH3:20].C[P:22](=[O:21])(C)O 10=20;20,21=21,22
[Li-]([NH+](C(C)C)C(C)C)[O+](C1=CCCC1C(C)CCCO[Si](C)(C)C(C)(C)C)[Si-:10](C)(C)(C)[Cl:11]>>[Li-]([NH+](C(C)C)C(C)C)[O+](C1=CCCC1C(C)CCCO[Si](C)(C)C(C)(C)C)[Si:10](C)(C)C.[Cl-:11] 10,11=11
C1=C(C=C(C(=C1)Br)[CH:20]=[OH+:21])F.C(CO)[OH:10].CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>C1=C(C=C(C(=C1)Br)[CH:20]([OH:21])[OH+:10]CCO)F.CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
